* Z:\mnt\design.r\spice\examples\1574-3.3.asc
V1 IN 0 9
L1 N001 OUT 100µ
C2 OUT 0 100µ
XU1 OUT MP_01 MP_02 0 N001 IN IN IN LTC1574 top=51K bot=31.5K
Rload OUT 0 10
.tran 3m startup
.lib LTC1574.sub
.backanno
.end
